US05955464
A mixture of 5-fluoro-2-nitrobenzonitrile (3 g), 1,2,4-triazole (4.92 g), triethylamine (9.9 ml) and DMSO (50 ml) was stirred and heated to 85° C. for 16 hours. The mixture was cooled to ambient temperature and water was added. The precipitate was isolated and dried to give 2-nitro-5-(1,2,4-triazol-1-yl)benzonitrile (1.9 g) which was used without further purification.

reactant | 5-fluoro-2-nitrobenzonitrile | 3 g | FC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3FN2O2
reactant | 1,2,4-triazole | 4.92 g | N1N=CN=C1 | C2H3N3
reactant | triethylamine | 9.9 ml | C(C)N(CC)CC | C6H15N
reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-nitro-5-(1,2,4-triazol-1-yl)benzonitrile | 1.9 g | [N+](=O)([O-])C1=C(C#N)C=C(C=C1)N1N=CN=C1 | C9H5N5O2
